.title kicad schematic

.include PNP.lib
.include D.lib
.include NPN.lib
r6 net-_q2-pad3_ net-_q6-pad3_ 1.6k
q6 net-_q6-pad1_ net-_d3-pad1_ net-_q6-pad3_ Q2N2222
q9 net-_d4-pad1_ net-_q5-pad1_ net-_q9-pad3_ Q2N2907A
q7 net-_d4-pad1_ net-_q7-pad2_ net-_q7-pad3_ Q2N2222
q8 net-_d5-pad2_ net-_q7-pad3_ net-_q2-pad3_ Q2N2222
q4 net-_d1-pad1_ net-_q1-pad1_ net-_q4-pad3_ Q2N2222
q3 net-_q2-pad1_ net-_d2-pad1_ net-_q3-pad3_ Q2N2907A
q2 net-_q2-pad1_ net-_q1-pad3_ net-_q2-pad3_ Q2N2222
r2 net-_q2-pad3_ net-_q4-pad3_ 1.4k
r5 net-_q2-pad3_ net-_d3-pad2_ 500
d3 net-_d3-pad1_ net-_d3-pad2_ 1N4148
r4 net-_d3-pad1_ net-_d2-pad2_ 5.4k
d2 net-_d2-pad1_ net-_d2-pad2_ 1N4148
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
* u1 net-_q14-pad3_ net-_q10-pad3_ net-_d1-pad1_ net-_q4-pad3_ net-_q1-pad2_ net-_q2-pad3_ net-_q7-pad2_ port
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
r1 net-_q3-pad3_ net-_d1-pad1_ 1.4k
r3 net-_q5-pad1_ net-_d1-pad2_ 250
q5 net-_q5-pad1_ net-_d1-pad2_ net-_d2-pad1_ Q2N2222
r7 net-_q9-pad3_ net-_d1-pad1_ 460
q14 net-_q10-pad3_ net-_q12-pad3_ net-_q14-pad3_ Q2N2222
q11 net-_d1-pad1_ net-_d4-pad1_ net-_q11-pad3_ Q2N2222
r8 net-_q10-pad3_ net-_q6-pad1_ 10k
q10 net-_q10-pad1_ net-_d5-pad2_ net-_q10-pad3_ Q2N2907A
q13 net-_d1-pad1_ net-_q11-pad3_ net-_q10-pad3_ Q2N2222
q12 net-_q10-pad3_ net-_q10-pad1_ net-_q12-pad3_ Q2N2222
r9 net-_q2-pad3_ net-_q10-pad1_ 7.0k
d5 net-_d4-pad2_ net-_d5-pad2_ 1N4148
d4 net-_d4-pad1_ net-_d4-pad2_ 1N4148
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
